US07700628B2
E. 4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoyl chloride
To a stirring solution of 4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzoic acid (4.0 g, 10.6 mmol) in dichloromethane (20 mL) at 0° C., was added oxalyl chloride (13 mmol), followed by a small amount of DMF. After 30 min, the solvents were removed in vacuo and the residue was dissolved in dichloromethane to make a solution of the title compound, approximately 0.1 g/mL.

reactant | 4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzoic acid | 10.6 mmol, 4.0 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C21H31NO5
reactant | oxalyl chloride | 13 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoyl chloride | C(C)(C)(C)C1=CC(=C(C(=O)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C21H30ClNO4
